US04062978
4-(p-Allyloxyphenyl)-2-butanone
p-Hydroxy benzylacetone (1.5 g.), KOH (6 g.) and allyl bromide (1.2 g.) were stirred in ethanol (50 ml) overnight. Water was added and the mixture extracted with ether, which was evaporated to give the compound (1.6 g.) as an oil purified by column chromatography.

reactant | p-Hydroxy benzylacetone | 1.5 g | OC1=CC=C(CCC(C)=O)C=C1 | C10H12O2
reactant | KOH | 6 g | [OH-].[K+]
reactant | allyl bromide | 1.2 g | C(C=C)Br | C3H5Br
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(p-Allyloxyphenyl)-2-butanone | C(C=C)OC1=CC=C(C=C1)CCC(C)=O | C13H16O2
